US07902369B2
1) Manufacture of 6-bromo-2-(2,2-difluoroethyl)-isoquinoline-1-one
Under nitrogen atmosphere, 44 mg of 60% sodium hydride was added at room temperature to 2 ml solution of dimethylformamide with 49 mg of 6-bromo-2H-isoquinoline-1-one and the mixture was stirred for 30 min. Then, 169 mg of 2,2-difluoroethyliodide was added and stirred at room temperature for 6 hours. Cold water was added to the reaction solution, the products were extracted with chloroform. Chloroform layer was washed with saturated saline solution and dried with anhydrous sodium sulfate. The solvents were distilled outunder reduced pressure, and the residues were separated and purified by thin-layer chromatography (chloroform/methyl alcohol=10/1) to obtain 41 mg of the above compound as a white solid.

reactant | sodium hydride | 44 mg | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 6-bromo-2H-isoquinoline-1-one | 49 mg | BrC=1C=C2C=CNC(C2=CC1)=O | C9H6BrNO
reactant | 2,2-difluoroethyliodide | 169 mg | FC(CI)F | C2H3F2I
solvent | water | O | H2O
product | 6-bromo-2-(2,2-difluoroethyl)-isoquinoline-1-one | 41 mg | BrC=1C=C2C=CN(C(C2=CC1)=O)CC(F)F | C11H8BrF2NO
